US08389524B2
(1R)-1-[(4-{[(7-Oxo-6,7-dihydro-1H-pyrimido[5,4-b][1,4]thiazin-2-yl)methyl]amino}-1-piperidinyl)methyl]-1,2-dihydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione dihydrochloride
A suspension of (1R)-1-[(4-amino-1-piperidinyl)methyl]-1,2-dihydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione (for a preparation see Example 5A(j)) (0.060 g, 0.179 mmol) in 1:1 CH2Cl2/MeOH (10 mL) was treated with 7-oxo-6,7-dihydro-1H-pyrimido[5,4-b][1,4]thiazine-2-carbaldehyde (0.035 g, 0.179 mmol) and sodium bicarbonate (0.151 g, 1.793 mmol). Excess Na2SO4 was added and the reaction stirred at room temperature for 18 hours. Sodium triacetoxyborohydride (0.114 g, 0.538 mmol) was added and the reaction stirred at room temperature for 1 hour. The solution was concentrated onto silica gel and the crude material was chromatographed using a gradient of 0-100% CH2Cl2/(CH2Cl2/MeOH/NH4OH) (90:10:1). The free base of the title compound was isolated as a yellow solid (0.027 g).

reactant | (1R)-1-[(4-amino-1-piperidinyl)methyl]-1,2-dihydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione | NC1CCN(CC1)C[C@@H]1CN2C(C=CC=3C=CC(N1C23)=O)=O | C16H20N4O2
reactant | 7-oxo-6,7-dihydro-1H-pyrimido[5,4-b][1,4]thiazine-2-carbaldehyde | 0.179 mmol, 0.035 g | O=C1N=C2C(SC1)=CN=C(N2)C=O | C7H5N3O2S
reactant | sodium bicarbonate | 1.793 mmol, 0.151 g | C([O-])(O)=O.[Na+]
reactant | Na2SO4 | [O-]S(=O)(=O)[O-].[Na+].[Na+]
reactant | Sodium triacetoxyborohydride | 0.538 mmol, 0.114 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | CH2Cl2 MeOH | 10 mL | C(Cl)Cl.CO
product | (1R)-1-[(4-{[(7-Oxo-6,7-dihydro-1H-pyrimido[5,4-b][1,4]thiazin-2-yl)methyl]amino}-1-piperidinyl)methyl]-1,2-dihydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione dihydrochloride | Cl.Cl.O=C1N=C2C(SC1)=CN=C(N2)CNC2CCN(CC2)C[C@@H]2CN1C(C=CC=3C=CC(N2C13)=O)=O | InChI=1S/C23H25N7O3S.2ClH/c31-19-13-34-17-9-25-18(26-22(17)27-19)10-24-15-5-7-28(8-6-15)11-16-12-29-20(32)3-1-14-2-4-21(33)30(16)23(14)29;;/h1-4,9,15-16,24H,5-8,10-13H2,(H,25,26,27,31);2*1H/t16-;;/m1../s1
